US06734203B2
80% 3-chloroperbenzoic acid (0.78 g) was added to a solution of N-methyl-N-{3-[2-(methylsulfinyl)ethyl]amino-1,4-dihydro-1,4-dioxo-2-naphthalenyl}acetamide (0.52 g) in dichloromethane (10 ml) and the mixture was stirred at room temperature for 3 hours. Saturated sodium bicarbonate aqueous solution was added to the reaction solution and the mixture was extracted with dichloromethane. The organic layer was washed with water and brine and then dried over anhydrous sodium sulfate. The solvent was evaporated and the residue was purified by silica gel column chromatography (elution with chloroform-methanol 50:1 solution) to give N-methyl-N-{3-[2-(methylsulfonyl)ethyl]amino-1,4-dihydro-1,4-dioxo-2-naphthalenyl}acetamide (0.39 g) as an orange amorphous solid.

reactant | 3-chloroperbenzoic acid | 0.78 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | N-methyl-N-{3-[2-(methylsulfinyl)ethyl]amino-1,4-dihydro-1,4-dioxo-2-naphthalenyl}acetamide | 0.52 g | CN(C(C)=O)C=1C(C2=CC=CC=C2C(C1NCCS(=O)C)=O)=O | C16H18N2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-methyl-N-{3-[2-(methylsulfonyl)ethyl]amino-1,4-dihydro-1,4-dioxo-2-naphthalenyl}acetamide | 0.39 g | CN(C(C)=O)C=1C(C2=CC=CC=C2C(C1NCCS(=O)(=O)C)=O)=O | C16H18N2O5S
